US07618975B2
(2-Fluoromethyl-quinazolin-4-yl)-(4-methoxy-phenyl)-methyl-amine
(2-Fluoromethyl-quinazolin-4-yl)-(4-methoxy-phenyl)-methyl-amine: A suspension of 2-fluoromethyl-quinazolin-4(3H)-one (70 mg, 0.39 mmol) in phosphoryl chloride (2 ml) and N,N-dimethylaniline (0.035 ml, 0.27 mmol) was heated under reflux for 12 hours. The reaction mixture was poured onto ice and the precipitate was collected by filtration, then washed and dried to give 4-chloro-2-fluoromethyl-quinazoline, which was used directly for the next reaction. To a solution of 4-chloro-2-fluoromethyl-quinazoline with (4-methoxy-phenyl)-methylamine (160 mg, 1.2 mmol) in isopropyl alcohol (5 ml) was added concentrated HCl (0.05 ml) and the solution was stirred at room temperature overnight. The solution was neutralized with saturated aqueous NaHCO3, and was extracted by ethyl acetate. The extracts were evaporated, and the residue was purified by column chromatography on silica gel with ethyl acetate and hexane (1:1) as eluent, yielding 11 mg (9.5%) of the title compound. 1H NMR (CDCl3): 7.87-7.84 (m, 1H), 7.60-7.54 (m, 1H), 7.14-7.10 (m, 2H), 7.04-7.01 (m, 2H), 6.95-6.91 (m, 2H), 5.60 (s, 1H), 5.44 (s, 1H), 3.85 (s, 3H), 3.60 (s, 3H).

reactant | 4-chloro-2-fluoromethyl-quinazoline | ClC1=NC(=NC2=CC=CC=C12)CF | C9H6ClFN2
reactant | (4-methoxy-phenyl)-methylamine | 1.2 mmol, 160 mg | COC1=CC=C(C=C1)NC | C8H11NO
reactant | HCl | 0.05 ml | Cl | ClH
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | isopropyl alcohol | 5 ml | C(C)(C)O | C3H8O
product | (2-Fluoromethyl-quinazolin-4-yl)-(4-methoxy-phenyl)-methyl-amine | 11 mg, 9.5% | FCC1=NC2=CC=CC=C2C(=N1)N(C)C1=CC=C(C=C1)OC | C17H16FN3O
